US04954511
To a stirring solution of 5.0 g of 4-(2,3,4,5,6-pentafluorophenoxy)piperidine in 50 ml of methanol was added 15 ml of 37% formaldehyde. After refluxing for 1 hour, the solution was cooled to ice bath temperature, treated (portionwise), with 2.5 g of sodium borohydride, and then stirred at ambient temperature for one hour. Evaporation of the volatiles yielded a residue which was taken up in ethyl acetate, washed with water followed by a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. Concentration afforded an oil which was purified by means of high pressure liquid chromatography (silica gel; elution with 10% methanol/dichloromethane) to yield 4.2 g of 1-methyl-4-(2,3,4,5,6-pentafluorophenoxy)piperidine as an oil. The oil which was dissolved in isopropanol and acidified to pH 1 with etheral hydrogen chloride to precipitate 2.34 g (39%) of the corresponding hydrochloride salt, m.p. 151°-153° C.

reactant | 4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 5.0 g | FC1=C(OC2CCNCC2)C(=C(C(=C1F)F)F)F | C11H10F5NO
reactant | formaldehyde | 15 ml | C=O | CH2O
reactant | sodium borohydride | 2.5 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-methyl-4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 4.2 g | CN1CCC(CC1)OC1=C(C(=C(C(=C1F)F)F)F)F | C12H12F5NO
